US06770637B2
4-o-Tolyl-[2,4′]bipyridinyl-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide
A mixture of 100 mg (0.173 mmol) N-(3,5-bis-trifluoromethyl-benzyl)-6-iodo-N-methyl-4-o-tolyl-nicotinamide, 21 mg (0.17 mmol) 4-pyridylboronic acid, 5 ml dimethoxyethane and 5 ml of a 2 M aqueous solution of sodium carbonate was deoxygenated by three freeze-thaw cycles. After addition of 20 mg (0.017 mmol) tetrakis(triphenylphosphine)palladium(0) the reaction mixture was stirred at 90° C. for 60 h. Cooling to room temperature was followed by dilution with water and extraction with 3 portions of ethyl acetate. The organic extract was washed with water, dried with magnesium sulfate and concentrated. Column chromatography afforded 59 mg (64%) of the title compound as a yellow solid.

reactant | N-(3,5-bis-trifluoromethyl-benzyl)-6-iodo-N-methyl-4-o-tolyl-nicotinamide | 0.173 mmol, 100 mg | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)I)=O)C)C=C(C1)C(F)(F)F)(F)F | C23H17F6IN2O
reactant | 4-pyridylboronic acid | 0.17 mmol, 21 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
product | 4-o-Tolyl-[2,4′]bipyridinyl-5-carboxylic acid (3,5-bis-trifluoromethyl-benzyl)-methyl-amide | 59 mg, 64% | FC(C=1C=C(CN(C(=O)C=2C(=CC(=NC2)C2=CC=NC=C2)C2=C(C=CC=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C28H21F6N3O
